US05494928
A suspension of 2.63 g of N-[3-chloro-2-(hydroxycarbonyl)-4-fluoro-phenyl]glycine and 2.63 g of sodium acetate in 25 ml of acetic anhydride was boiled under reflux for 45 minutes. The solvent was removed in a vacuum and the residue was treated with 50 ml of water. The crystals were filtered off, washed with water and dried. There were obtained 2.7 g (94%) of 3-acetoxy-1-acetyl-4-chloro-5-fluoroindole as yellow crystals with m.p. 168°-169°.

reactant | N-[3-chloro-2-(hydroxycarbonyl)-4-fluoro-phenyl]glycine | 2.63 g | ClC=1C(=C(C=CC1F)NCC(=O)O)C(=O)O | C9H7ClFNO4
reactant | sodium acetate | 2.63 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-acetoxy-1-acetyl-4-chloro-5-fluoroindole | 2.7 g, 94% | C(C)(=O)OC1=CN(C2=CC=C(C(=C12)Cl)F)C(C)=O | C12H9ClFNO3
